US07317012B2
8A. Preparation of 4-(4-chlorophenyl)-1,2-dihydropyridazine-3,6-dione
To a solution of hydrazine dihydrochloride (5.6 g, 53.3 mmol) in H2O (60 mL) at 120° C. was added 3-(4-chlorophenyl)-2,5-furandione (10 g, 48 mmol) in one portion. After addition, the reaction mixture was stirred at 120° C. for 40 min. After cooling to room temperature, the reaction became a pale yellow suspension. The precipitate was collected by filtration, washed with water (30 mL×3), hexanes (30 mL×3), and dried in a 50° C. vacuum oven for 16 h to afford 8.7 g (81%) of the title compound as a pale yellow solid. LC/MS (method A): retention time=2.57 min, (M+H)+=223.

reactant | hydrazine dihydrochloride | 53.3 mmol, 5.6 g | Cl.Cl.NN
reactant | 3-(4-chlorophenyl)-2,5-furandione | 48 mmol, 10 g | ClC1=CC=C(C=C1)C=1C(OC(C1)=O)=O | C10H5ClO3
solvent | H2O | 60 mL | O | H2O
product | 4-(4-chlorophenyl)-1,2-dihydropyridazine-3,6-dione | 8.7 g, 81% | ClC1=CC=C(C=C1)C=1C(NNC(C1)=O)=O | C10H7ClN2O2
